US06818767B2
A solution of 50 g (0.354 mol) of 4-fluoro-3-methoxy-aniline dissolved in methylene chloride (1800 ml) was treated under argon with 163.2 g (0.44 mol) of tetrabutyl-ammonium iodide, cooled to −75° C. and the treated over a period of 25 minutes with 860 ml of 1 M BCl3 in methylene chloride while keeping the reaction solution between −75° C. and −64° C. The solution was stirred for 15 minutes the cooling bath was removed and stirring was continued for 24 h under argon. The reaction solution was poured into ice water (6 l) with stirring, the layers were separated, the water layer twice extracted with methylene chloride (each 1.5 l). The combined organic layers were washed twice with water (each 2 l) and discarded. The combined aqueous layers were made basic with solid NaHCO3, saturated with NaCl, extracted 3 times with 2.5 l of ether and twice with 1.5 l of AcOEt. The combined organic layers were tried over magnesium sulphate and concentrated in vacuo to give 43.9 g (87.8%) of 4-fluoro-3-hydroxy-aniline as light brown crystalline solid. Melting point: 156-157° C.

reactant | 4-fluoro-3-methoxy-aniline | 0.354 mol, 50 g | FC1=C(C=C(N)C=C1)OC | C7H8FNO
reactant | BCl3 | 1 M, 860 ml | B(Cl)(Cl)Cl | BCl3
solvent | methylene chloride | 1800 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutyl-ammonium iodide | 0.44 mol, 163.2 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-fluoro-3-hydroxy-aniline | 43.9 g, 87.8% | FC1=C(C=C(N)C=C1)O | C6H6FNO
